US04880809
A mixture of 3,4,5-trimethoxybenzyl chloride (10.5 g), N-formyl homopiperazine (6.82 g), potassium carbonate (8 g) and ethyl acetate (40 ml) is heated at 50-60° C. for 4 hours. After addition of water the reaction mixture is shaken thoroughly. The organic layer is separated, washed with water, dried and evaporated under reduced pressure. To the residue is added 10% hydrochloric acid (20 ml), and the mixture is extracted with ethyl acetate. The aqueous layer is made alkaline (>pH 9) with a 20% aqueous solution of sodium hydroxide, and extracted with methylene chloride. The extract solution is evaporated under reduced pressure. To the residue is added 10% hydrochloric acid (15 ml), and the mixture is stirred at 100° C. for 3 hours. The reaction mixture is made alkaline with a 20% aqueous solution of sodium hydroxide, and extracted with ethyl acetate. The extract solution is dried and evaporated under reduced pressure. The residue is converted to the hydrochloride in a mixture of ethyl acetate and ethanol to yield 1-(3,4,5-trimethoxybenzyl) homopiperazine dihydrochloride (2.7 g) as colorless powdery crystals, m.p. 216°-220° C.

reactant | 3,4,5-trimethoxybenzyl chloride | 10.5 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | N-formyl homopiperazine | 6.82 g | C(=O)N1CCNCCC1 | C6H12N2O
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzyl) homopiperazine dihydrochloride | 2.7 g | Cl.Cl.COC=1C=C(CN2CCNCCC2)C=C(C1OC)OC | InChI=1S/C15H24N2O3.2ClH/c1-18-13-9-12(10-14(19-2)15(13)20-3)11-17-7-4-5-16-6-8-17;;/h9-10,16H,4-8,11H2,1-3H3;2*1H
